US04654362
To a stirred solution of 12 parts of (+)-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid in 270 parts of tetrahydrofuran were added 11 parts of 1,1'-carbonylbis[1H-imidazole]. After stirring for 1 hour at room temperature, the whole was cooled to -70° C. and 84 parts of a solution of bis(2-methylpropyl)aluminum hydride 1.5M in methylbenzene were added dropwise. Upon completion, stirring was continued for 20 minutes at -70° C. After the addition of 40 parts of methanol, the reaction mixture was poured onto water. The whole was acidified and the product was extracted with 1,1'-oxybisethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by filtration over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated, yielding 9.50 parts (84% ) of (+)-3,4-dihydro-2H-1-benzopyran-2-carboxaldehyde as a residue; [α]D =+94.8° (c=1% in CH3OH) (intermediate 49).

reactant | (+)-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid | O1C(CCC2=C1C=CC=C2)C(=O)O | C10H10O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | bis(2-methylpropyl)aluminum hydride | 1.5M | [H-].CC(C[Al+]CC(C)C)C
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
solvent | methanol | CO | CH4O
product | (+)-3,4-dihydro-2H-1-benzopyran-2-carboxaldehyde | 84% | O1C(CCC2=C1C=CC=C2)C=O | C10H10O2
